US06627660B1
Preparation of N-Trimethylsilylethoxycarbonylthyroxine (Teoc-T4)
To a stirred suspension of thyroxine (1.66 g, 2.14 mmol) in DMSO (15 mL) was added triethylamine (3.21 mmol) followed by solid Teoc-0Su (610 mg, 2.35 mmol). The mixture was stirred at room temperature overnight then diluted with water (22 mL), acidified with saturated potassium hydrogen sulfate solution and extracted with ether (3×45 mL). The combined organic extracts were washed with water (4×45 mL), dried with magnesium sulfate, and evaporated to dryness. (Yield: 1.87 g).

reactant | thyroxine | 2.14 mmol, 1.66 g | N[C@@H](CC1=CC(I)=C(C(I)=C1)OC1=CC(I)=C(C(I)=C1)O)C(=O)O | C15H11I4NO4
reactant | triethylamine | 3.21 mmol | C(C)N(CC)CC | C6H15N
reactant | 1-[2(Trimethylsilyl)ethoxycarbonyloxy]pyrrolidin-2,5-dione | 2.35 mmol, 610 mg | C[Si](CCOC(=O)ON1C(CCC1=O)=O)(C)C | C10H17NO5Si
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | water | 22 mL | O | H2O
product | N-Trimethylsilylethoxycarbonylthyroxine | C[Si](C)(C)CCOC(=O)N[C@@H](CC1=CC(I)=C(C(I)=C1)OC1=CC(I)=C(C(I)=C1)O)C(=O)O | C21H23I4NO6Si
